US05468898
Following the procedure of Example 10, 5-benzyloxy-2-carbomethoxyindole is alkylated with N-methyl-N-phenethyl-2-bromoacetamide to give N-methyl-N-phenethyl-2-(5-benzyloxy-2-carbomethoxyindol-1-yl)acetamide. (m.p. 155°-156° C.)

reactant | 5-benzyloxy-2-carbomethoxyindole | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OC | C17H15NO3
reactant | N-methyl-N-phenethyl-2-bromoacetamide | CN(C(CBr)=O)CCC1=CC=CC=C1 | C11H14BrNO
product | N-methyl-N-phenethyl-2-(5-benzyloxy-2-carbomethoxyindol-1-yl)acetamide | CN(C(CN1C(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OC)=O)CCC1=CC=CC=C1 | C28H28N2O4
